US04618683
2-Ethyl-3a,4,5,9b-tetrahydro-6,7-dimethoxy-9-methyl-1H-benz[e]isoindole-1,3-(2H)dione
Using the procedure as described for Example 64, but starting with 3,3a,4,5-tetrahydro-6,7-dimethoxy-9-methyl-1H-benz[e]isoindole-1,3-(2H)-dione, and using ethyl iodide in place of methyl iodide afforded the desired compound.

reactant | 3,3a,4,5-tetrahydro-6,7-dimethoxy-9-methyl-1H-benz[e]isoindole-1,3-(2H)-dione | COC1=C(C=C(C=2C3C(NC(C3CCC21)=O)=O)C)OC | C15H17NO4
reactant | ethyl iodide | C(C)I | C2H5I
product | 2-Ethyl-3a,4,5,9b-tetrahydro-6,7-dimethoxy-9-methyl-1H-benz[e]isoindole-1,3-(2H)dione | C(C)N1C(C2CCC3=C(C2C1=O)C(=CC(=C3OC)OC)C)=O | C17H21NO4
